US04760163
using isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylpropenyl]ureido}-benzoate with sodium isopropylate in an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 155°-157° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylpropenyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=C(C)C(=O)OCC)C | C18H22ClFN2O5
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)C)C)=O | C16H16ClFN2O4
